### PR TITLE
The lemma `elem_of_list_split_2`

### PR DESCRIPTION
**Pull request by wkolowski**
This is needed for UMO.

### CODE REVIEW

File: theories/VLSM/Lib/StdppExtras.v [hunk 1]
```diff
@@ -324,3 +324,25 @@ Proof.
...
   by apply drop_S.
 Qed.
+
+(**
+  When a list contains two elements, either they are equal or we can split
+  the list into three parts separated by the elements (and this can be done
+  in two ways, depending on the order of the elements).
+*)
+Lemma elem_of_list_split_2 :
+  forall {A : Type} {x y : A} {l : list A},
```
Comment (palmskog) [inline theories/VLSM/Lib/StdppExtras.v:334]: Do we really want to make *all* arguments implicit here? I think it makes more sense to have the list and elements as regular arguments.
```suggestion
  forall {A : Type} (l : list A) x y,
```

**Review by palmskog — APPROVED** [review]
Fine, but see suggestion.

File: theories/VLSM/Lib/StdppExtras.v (hunk 1 above)
Comment (wkolowski) [reply theories/VLSM/Lib/StdppExtras.v:334]: These should be inferable from `x \in l` and `y \in l`... but I'll change it as it doesn't matter anyway.
